US05447954
±(3R*,4S*) 3-Carboxy-11-(2 4-dichlorophenyl)-3 4-dihydroxyundecanoic acid
±(3R*,4S*) Methyl 11-(2,4-dichlorophenyl)-3,4-dihydroxy-3-methoxycarbonylundecanoate (189 mg, 0.434 mmol: prepared in analogous fashion to the higher homologue described in example 5) was heated under reflux in aqueous HCl (7.7M) for 3 h. The solution was cooled, diluted with water, and extracted with ether. The extracts were washed with aqueous NaOH, then the aqueous phase washed with ether, and acidified (aqueous HCl). The mixture was extracted with ether again. The extracts were washed with water, saturated aqueous NaCl, and dried (MgSO4). The solvent was removed under vacuum, and the residue recrystallised (ether/petroleum ether 40°-60° C.) to give the title compound (115 mg, 68%) as a white solid, m.p. 104°-105° C.

reactant | (3R*,4S*) Methyl 11-(2,4-dichlorophenyl)-3,4-dihydroxy-3-methoxycarbonylundecanoate | ClC1=C(C=CC(=C1)Cl)CCCCCCC[C@@H]([C@](CC(=O)OC)(C(=O)OC)O)O | C20H28Cl2O6
solvent | HCl | 7.7M | Cl | ClH
solvent | water | O | H2O
product | (3R*,4S*) 3-Carboxy-11-(2 4-dichlorophenyl)-3 4-dihydroxyundecanoic acid | 115 mg, 68% | C(=O)(O)[C@@](CC(=O)O)([C@H](CCCCCCCC1=C(C=C(C=C1)Cl)Cl)O)O | C18H24Cl2O6
